US07034098B2
Preparation was carried out analogously to Example 5 using 4.24 g (16.94 mmol) (2E)-3-(4-butoxy-3-methoxyphenyl)-2-propenoic acid, 2.20 g (16.13 mmol) 6-chloro-1-hexanol, 1.90 g (6.45 mmol) 4-(dimethylamino)pyridinium p-toluenesulfonate and 4.16 g (20.17 mmol) N,N′-dicyclohexylcarbodiimide to give 6-chlorohexyl (2E)-3-(4-butoxy-3-methoxyphenyl)-2-propenoate as colorless oil.

reactant | (2E)-3-(4-butoxy-3-methoxyphenyl)-2-propenoic acid | 16.94 mmol, 4.24 g | C(CCC)OC1=C(C=C(C=C1)/C=C/C(=O)O)OC | C14H18O4
reactant | 6-chloro-1-hexanol | 16.13 mmol, 2.20 g | ClCCCCCCO | C6H13ClO
reactant | 4-(dimethylamino)pyridinium p-toluenesulfonate | 6.45 mmol, 1.90 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.CN(C1=CC=[NH+]C=C1)C
reactant | N,N′-dicyclohexylcarbodiimide | 20.17 mmol, 4.16 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | 6-chlorohexyl (2E)-3-(4-butoxy-3-methoxyphenyl)-2-propenoate | C(CCC)OC1=C(C=C(C=C1)/C=C/C(=O)OCCCCCCCl)OC | C20H29ClO4
